US05929103
Synthesis of 4-phenyl-1-[N-(4-nitrobenzoyl)indoline-5-sulfonyl]-2-imidazolone
4-Phenyl-1-(indoline-5 -sulfonyl)-2-imidazolone (300 mg, 0.88 mmol) prepared in Preparation 3 was suspended in 10 m of dichloromethane. Then, pyridine (85 μ, 1.05 mmol) and 4-nitrobenzoyl chloride (163 mg, 0.88 mmol) were added thereto one after another. The resulting reaction mixture was stirred at room temperature under nitrogen atmosphere for 5 hours while the reaction being monitored by TLC. After the reaction was completed, the whole mixture was diluted with dichloromethane, washed with brine, dried over anhydrous magnesium sulfate, concentrated, and finally purified by silica gel column chromatography (eluent: dichloromethane/methanol=15/1, v/v) to afford 400 mg of the title compound as a yellow solid.

reactant | 4-Phenyl-1-(indoline-5 -sulfonyl)-2-imidazolone | 0.88 mmol, 300 mg | C1(=CC=CC=C1)C=1NC(N(C1)S(=O)(=O)C=1C=C2CCNC2=CC1)=O | C17H15N3O3S
reactant | pyridine | 1.05 mmol | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrobenzoyl chloride | 0.88 mmol, 163 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-phenyl-1-[N-(4-nitrobenzoyl)indoline-5-sulfonyl]-2-imidazolone | 400 mg, Yield: 92% | C1(=CC=CC=C1)C=1NC(N(C1)S(=O)(=O)C=1C=C2CCN(C2=CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C24H18N4O6S
